US05763437
A mixture of N-[1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methoxycarbonylphenyl)urea (312.5 mg) and 0.1N sodium hydroxide (7.7 ml, 1.5 eq. mol) in tetrahydrofuran (20 ml) was refluxed under stirring for 7 hours. After removal of the tetrahydrofuran, the residual aqueous mixture was extracted with ethyl acetate. After the separated aqueous layer was washed with ethyl acetate, it was acidified with diluted hydrochloric acid. The resultant precipitates were collected by filtration, washed with water and dried under reduced pressure to afford N-[1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-carboxyphenyl)urea (0.19 g, 62.2%) as a white crystalline powder.

reactant | N-[1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methoxycarbonylphenyl)urea | 312.5 mg | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)C(=O)OC)=O | C34H34FN5O5
reactant | sodium hydroxide | 0.1N, 7.7 ml, 1.5 eq. | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-carboxyphenyl)urea | 0.19 g, 62.2% | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)C(=O)O)=O | C33H32FN5O5
